US06063782
1-(2-Butenyl)-2,3-dimethyl-7-(2-thienylmethyloxy)pyrrolo[2,3-d]pyridazine
The title compound (cis/trans=20/80) was prepared as a grayish white powder in 20.6% yield in a similar procedure to that described in Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=20/80) and 2-thiophenemethanol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 2-thiophenemethanol | S1C(=CC=C1)CO | C5H6OS
product | 1-(2-Butenyl)-2,3-dimethyl-7-(2-thienylmethyloxy)pyrrolo[2,3-d]pyridazine | 20.6% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC=2SC=CC2)C)C | C17H19N3OS
